US08629149B2
Synthesis of N-benzhydryl-3-oxopiperazine-1-carboxamide (Compound 1)
To a solution of piperazin-2-one (100 mg, 1 mmol) was added (isocyanatomethylene)dibenzene (209 mg, 1 mmol) in dichloromethane (5 mL). The solution was stirred for 2 hours at room temperature and concentrated in vacuo. The residue was diluted with EtOAc and then washed consecutively with saturated aqueous NaHCO3 and brine. The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The crude material was purified by flash column chromatography (2:98 MeOH/DCM) to give desired compound N-benzhydryl-3-oxopiperazine-1-carboxamide (Compound 1) (232 mg, 75%) as a white powder.

reactant | piperazin-2-one | 1 mmol, 100 mg | N1C(CNCC1)=O | C4H8N2O
reactant | (isocyanatomethylene)dibenzene | 1 mmol, 209 mg | N(=C=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C14H11NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-benzhydryl-3-oxopiperazine-1-carboxamide | 232 mg, 75% | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)N1CC(NCC1)=O | C18H19N3O2
